US04490380
Preparation or 3-Chloro-2-Pyridine Sulfonamide
53.0 Grams (0.225 mole) of 3-chloro-2-((phenylmethyl)thio)pyridine were added to 250 ml of acetic acid containing 16.2 grams (0.90 mole) of water. The mixture was cooled in an ice bath and passed in a stream of chlorine at 10°-15° C. for 31/2 hours. The resulting cold acetic acid solution was poured, with stirring, into a mixture of 180 grams (2.2 moles) of sodium acetate, 500 ml water and 250 grams crushed ice. (The sodium acetate converts the 3-chloro-2-pyridine sulfonyl chloride present as the hydrochloride, into free 3-chloro-2-pyridine sulfonyl chloride.) The resulting mixture was extracted with methylene chloride, washed with water, and dried over anhydrous sodium sulfate. The methylene chloride extract was evaporated to 150 ml and cooled to -30° C. in a dry ice bath.

reactant | 3-chloro-2-((phenylmethyl)thio)pyridine | 0.225 mole | ClC=1C(=NC=CC1)SCC1=CC=CC=C1 | C12H10ClNS
reactant | chlorine | ClCl | Cl2
reactant | sodium acetate | 2.2 moles, 180 grams | C(C)(=O)[O-].[Na+]
reactant | 3-chloro-2-pyridine sulfonyl chloride | ClC=1C(=NC=CC1)S(=O)(=O)Cl | C5H3Cl2NO2S
reactant | hydrochloride | Cl | ClH
solvent | water | 500 ml | O | H2O
solvent | acetic acid | C(C)(=O)O | C2H4O2
solvent | acetic acid | 0.90 mole, 250 ml, 16.2 grams | C(C)(=O)O | C2H4O2
product | 3-Chloro-2-Pyridine Sulfonamide | ClC=1C(=NC=CC1)S(=O)(=O)N | C5H5ClN2O2S
